US05739135
B. (Z)-N-[1-(5,5-Diphenyl-2-pentenyl)-4-piperidinyl]-2-phenoxybenzamide
To a solution of 197 mg (0.9 mmol, 1.5 eq) of ortho-phenoxybenzoic acid (Aldrich) and 124 mg (0.9 mmol, 1.5 eq) of 1-hydroxybenzotriazole (HOBt) in 10 mL of CH2Cl2 and 0.5 mL of DMF was added 144 μL (0.9 mmol, 1.5 eq) of diisopropyl-carbodiimide (DIC) followed by a solution of 196 mg (0.6 mmol, 1 eq) of Part A compound in 2.5 mL of CH2Cl2. After 17 h, the reaction was diluted with CH2Cl2 and washed with 1N KOH. The organic solution was filtered through cotton and concentrated to afford a viscous heterogeneous mixture which was chromatographed on silica gel (75 g) eluted with 4% methanol in CH2 Cl2. The material obtained from this column was contaminated with a significant amount of urea by-product. The mixture was dissolved in EtOAc from which most of the urea precipitated. After filtration of the precipitated urea and concentration of the EtOAc solution, the resulting oil was chromatographed on silica gel (75 g) eluted with EtOAc to afford 192 mg of title compound as a pale yellow waxy solid which was recrystallized from ether/hexanes to provide 138 mg (44%) of title compound as a white crystalline solid; m.p. 91°-94° C.

reactant | ortho-phenoxybenzoic acid | 0.9 mmol, 197 mg, 1.5 eq | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O3
reactant | 1-hydroxybenzotriazole | 0.9 mmol, 124 mg, 1.5 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropyl-carbodiimide | 0.9 mmol, 144 μL, 1.5 eq | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | urea | NC(=O)N | CH4N2O
product | (Z)-N-[1-(5,5-Diphenyl-2-pentenyl)-4-piperidinyl]-2-phenoxybenzamide | 192 mg | C1(=CC=CC=C1)C(C\C=C/CN1CCC(CC1)NC(C1=C(C=CC=C1)OC1=CC=CC=C1)=O)C1=CC=CC=C1 | C35H36N2O2
